US07608639B2
3-{4-[2-(4-Chloro-2-phenoxy-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(2-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-chloro-2-phenoxy-phenol as in Example 18 to afford 0.039 g (8%). 1H NMR (400 MHz, CDCl3); MS (ES−) m/z mass calculated for C28H23O5Cl 474, found 473 and 475 (M−1, and M+1).

reactant | 3-[4-(2-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=C(C=CC=C1)Br)C)=O | C17H17BrO3
reactant | 4-chloro-2-phenoxy-phenol | ClC1=CC(=C(C=C1)O)OC1=CC=CC=C1 | C12H9ClO2
product | 3-{4-[2-(4-Chloro-2-phenoxy-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | ClC1=CC(=C(OC2=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=CC=C2)C=C1)OC1=CC=CC=C1 | C28H23ClO5
